US08895544B2
(5-Cyclohexylamino-pyrazin-2-yl)-{2-[6-(2-ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-methanone
The title compound was prepared from (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone (126 mg, 243 μmol) and cyclohexylamine (48 mg, 487 μmol) using the method of Example 32. The crude material was purified by HPLC Method D to afford (29 mg, 20%) of the title compound as off-white solid.

reactant | (5-chloropyrazin-2-yl)(2-(6-(2-ethyl-5-fluoro-4-hydroxyphenyl)-1H-indazol-3-yl)-6,7-dihydro-1H-imidazo[4,5-c]pyridin-5(4H)-yl)methanone | 243 μmol, 126 mg | ClC=1N=CC(=NC1)C(=O)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC | C26H21ClFN7O2
reactant | cyclohexylamine | 487 μmol, 48 mg | C1(CCCCC1)N | C6H13N
product | (5-Cyclohexylamino-pyrazin-2-yl)-{2-[6-(2-ethyl-5-fluoro-4-hydroxy-phenyl)-1H-indazol-3-yl]-1,4,6,7-tetrahydro-imidazo[4,5-c]pyridin-5-yl}-methanone | 29 mg, 20% | C1(CCCCC1)NC=1N=CC(=NC1)C(=O)N1CC2=C(CC1)NC(=N2)C2=NNC1=CC(=CC=C21)C2=C(C=C(C(=C2)F)O)CC | C32H33FN8O2
